US07326791B2
N-[(1R)-2-(C-tert-butoxycarbonylmethyloxy)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (R)-2-(C-tert-butoxycarbonylmethyloxy)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 82%; Rf value: 0.70 (silica gel; dichloromethane/methanol=95:5); C28H33ClN4O5 (541.05); mass spectrum: (M+H)+=541/543 (chlorine isotope) and (M−H)−=539/541 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-2-(C-tert-butoxycarbonylmethyloxy)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | C(C)(C)(C)OC(=O)COC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)N | C15H20ClN3O3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
product | N-[(1R)-2-(C-tert-butoxycarbonylmethyloxy)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 82% | C(C)(C)(C)OC(=O)COC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C28H33ClN4O5
